US07939533B2
(2S,4R)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-4-(2-methanesulfonyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide
To a solution of 150 mg (0.239 mmol) (2S,4R)-2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-4-(2-methylsulfanyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide in 1.5 ml methanol were added 250 mg (0.406 mmol) potassium monopersulfate triple salt. The reaction mixture was stirred at room temperature for 24 h. The reaction mixture was treated with 0.5 ml sodium hydrogen sulfite solution (38%) and stirred for 30 minutes. Addition of 5 ml 2 N sodium carbonate solution was followed by extraction with two 10-ml portions of dichloromethane. The combined organic layers were dried over sodium sulfate and purified by flash chromatography to give 131 mg (83%) of the title compound as a white foam.

reactant | (2S,4R)-2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-4-(2-methylsulfanyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide | 0.239 mmol, 150 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)SC)N1[C@@H](C[C@H](C1)O)CO)(C)C)(F)F | C30H31F6N3O3S
reactant | potassium monopersulfate triple salt | 0.406 mmol, 250 mg | OS(=O)(=O)[O-].OS(=O)(=O)O[O-].OS(=O)(=O)O[O-].[O-]S(=O)(=O)[O-].[K+].[K+].[K+].[K+].[K+]
reactant | sodium hydrogen sulfite | 0.5 ml | S(=O)(O)[O-].[Na+]
reactant | sodium carbonate | 2 N, 5 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 1.5 ml | CO | CH4O
product | (2S,4R)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-4-(2-methanesulfonyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide | 131 mg, 83% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)S(=O)(=O)C)N1[C@@H](C[C@H](C1)O)CO)(C)C)(F)F | C30H31F6N3O5S
